US09388189B2
c) 4-Methoxy-N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-4-yl)benzenesulfonamide
N-(6-Bromo-1H-indol-4-yl)-4-methoxybenzenesulfonamide (790 mg, 1.80 mmol), bis(pinacolato)diboron (915 mg, 3.53 mmol), potassium acetate (519 mg, 3.61 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (147 mg, 0.18 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (99 mg, 0.18 mmol) were suspended in dioxane (10 ml) and stirred overnight at 120° C. After evaporation of the solvent under reduced pressure, ethyl acetate (100 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvent was evaporated under reduced pressure and the residue was purified by flash chromatography using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to obtain 241 mg (26% yield) of the title compound. Purity: 85%

reactant | N-(6-Bromo-1H-indol-4-yl)-4-methoxybenzenesulfonamide | 1.80 mmol, 790 mg | BrC1=CC(=C2C=CNC2=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C15H13BrN2O3S
reactant | bis(pinacolato)diboron | 3.53 mmol, 915 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.61 mmol, 519 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.18 mmol, 99 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-Methoxy-N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-4-yl)benzenesulfonamide | 241 mg, 26% yield | COC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CNC2=CC(=C1)B1OC(C(O1)(C)C)(C)C | C21H25BN2O5S
